US06521643B1
To a suspension of N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-thiourea (0.1 g) in N,N-dimethylformamide (2 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 0.181 ml) and iodoethane (0.144 ml), and the mixture was stirred at 80° C. for 3 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration. The precipitate was dissolved in water, and to the solution was added a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml). The precipitate was collected by filtration and dried under reduced pressure to give N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride (125 mg).

reactant | N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-thiourea | 0.1 g | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(=S)N | C13H12FN3OS
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 0.181 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 0.144 ml | ICC | C2H5I
product | N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-S-ethylisothiourea dihydrochloride | 125 mg | Cl.Cl.FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(SCC)=N | InChI=1S/C15H16FN3OS.2ClH/c1-3-21-15(17)19-14-8-10(4-5-12(14)16)13-9-11(20-2)6-7-18-13;;/h4-9H,3H2,1-2H3,(H2,17,19);2*1H
